Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abnormal stress test
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with stenting

 
History of Present Illness:
Mr. ___ is a ___ year old legally blind male w/ ___ 
___ Syndrome, a horseshoe kidney, and hypertension sent in 
by PCP for new anterolateral Qs and TWIs on routine EKG. Patient 
describes no symptoms over the last month or at the present 
time. The patient was referred to have stress test at ___ 
___ following the EKG which showed anteroapical 
abnomalities. At that point, he was sent here. Initial labs in 
the ED showed troponin < 0.01. Initial vitals were stable at T 
97.5 P 85 BP 138/100 R 15 O2SAT 100%RA. CXR showed no acute 
cardiopulmonary abnormality. He was given lisinopril 10 mg PO x 
1 and ASA 325 mg PO x 1. He was then admitted to the ___ 
inpatient cardiology service for possible cardiac 
catheterization. Vitals on transfer were T 98.0, P ___, BP 
170/107, R 17, O2SAT 98%RA. On arrival to the floor, patient had 
no compliants, felt well.
.  
On review of systems, he denied any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denied recent fevers, chills, or 
rigors. He denied exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems was notable for the absence of chest 
pain, dyspnea on exertion, paroxysmal nocturnal dyspnea, 
orthopnea, ankle edema, palpitations, syncope, or presyncope.
 
Past Medical History:
CARDIAC RISK FACTORS: +Hypertension  
CARDIAC HISTORY: None 
- Retinitis pigmentosa  
- ___ Syndrome  
- Horseshoe kidney, renal function diminished 
- bladder retention and an undescended left testicle
 
Social History:
___
Family History:
Mother - catheterization with stenting  

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:  
VS: T 98.4 BP 154/98 P 88 RR 16 pOx 99 RA wt 73 kg  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple, w/o LAD 
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Cool 
and dry to the touch in upper and lower extrem.  
PULSES: 2+ radial, DP and ___ were 2+ bilaterally. 

PHYSICAL EXAM ON DISCHARGE:
VS: T 98.7-98.9 BP 112-150/85-108 P ___ RR 16 pOx 99-100 RA, 
71.5 kg  
GENERAL: NAD. Oriented x3. Mood, affect appropriate, withdrawn.  

HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple, w/o LAD 
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3, 
(+)S4.  
LUNGS: No chest wall deformities. Resp were unlabored, no 
accessory muscle use. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. Cool 
and dry to the touch in upper and lower extrem. Right femoral 
cath site c/d/i, w/o bruits, mildly TTP, no evidence of 
hematoma.  
PULSES: 2+ radial, DP and ___ were 2+ bilaterally.
 
Pertinent Results:
LABS ON ADMISSION:
___ 05:15PM BLOOD WBC-7.0 RBC-4.89 Hgb-14.2 Hct-39.7* 
MCV-81* MCH-29.1 MCHC-35.8* RDW-14.9 Plt ___
___ 05:15PM BLOOD Neuts-84.7* Lymphs-10.1* Monos-2.9 
Eos-1.0 Baso-1.2
___ 05:15PM BLOOD ___ PTT-29.2 ___
___ 05:15PM BLOOD Glucose-107* UreaN-30* Creat-1.8* Na-141 
K-5.5* Cl-105 HCO3-23 AnGap-19

OTHER LABS OF INTEREST:
___ 05:15PM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD CK-MB-2 cTropnT-<0.01

___ 07:10AM BLOOD %HbA1c-5.4 eAG-108
___ 07:10AM BLOOD Triglyc-97 HDL-40 CHOL/HD-3.7 LDLcalc-87

LABS ON DISCHARGE:
___ 06:20AM BLOOD Hct-36.0* Plt ___
___ 06:20AM BLOOD UreaN-28* Creat-1.9* Na-143 K-4.0 Cl-107

STUDIES OF INTEREST:
EKG ___: Baseline artifact. Sinus rhythm. Indeterminate 
axis. Low voltage. Probable Q waves in leads V1-V2 with ST-T 
wave abnormalities. Consider age undetermined. Anteroseptal 
myocardial infarction. Other ST-T wave abnormalities. Clinical 
correlation is suggested. No previous tracing 
available for comparison.  
Rate PR QRS QT/QTc P QRS T 
 96 126 82 ___ 105

PA & LAT CXR ___: The cardiac silhouette is normal in 
size. The aorta is mildly unfolded. The lungs are clear. The 
pulmonary vascularity 
is normal. No pleural effusion or pneumothorax is present. There 
is no focal consolidation. No acute osseous abnormality is 
visualized. No acute cardiopulmonary abnormality.

CARDIAC CATH ___: Successful PTCA and stenting of the 
diagonal branch with a 2.5 x 23 mm Promus ___ to 
2.75 mm (see PTCA comments). Successful right femoral 
arteriotomy closure with a ___ AngioSeal. FINAL DIAGNOSIS: 
One-vessel coronary artery disease, Successful PCI of the 
diagonal branch with a 2.5 x 23 Promus ___ to 2.75, 
Successful right femoral AngioSeal closure.

POST CATH EKG ___: Sinus rhythm. Since the previous 
tracing the axis is now left superior. Otherwise, unchanged. 
Rate PR QRS QT/QTc P QRS T 
 75 148 82 ___ 115
 
Brief Hospital Course:
Patient admitted for possible cardiac catheterization following 
new changes on outpatient EKG and ischemic changes on outpatient 
stress test. He described no symptoms over the last 2 weeks or 
at the current time. Labs and repeat EKG in ED showed troponins 
< 0.01 and evidence of an old septal infarct (new since 
___, results that indicated it was highly unlikely that 
the patient was currently having a myocardial infarction, but 
that he may have had one in the last year. He was admitted to 
___ for possible cardiac catheterization.

Cardiac catheterization was done via the right femoral artery 
and the patient tolerated the procedure well. A stent was placed 
in the first diagonal artery off of the left anterior descending 
coronary artery. Post-cath check was done in the evening 
following the procedure and indicated no signs of a bleed, 
hematoma, or bruits. The patient was started on the appropriate 
antithrombotic regimen for discharge and will be following up as 
an outpatient with both Dr. ___ new cardiologist and 
Dr. ___ PCP.

Mr. ___ had elevated blood pressures on admission and his 
hypertensive medication regimen was modified in addition to the 
new coronary artery disease regimen that we initiated.

Lastly, Mr. ___ has chronic renal insufficiency with a 
baseline Cr of 1.6-1.8. He was within this baseline during his 
stay here, but should have a follow-up Cr measurement as an 
outpatient as we increased his dose of Lisinopril to 20 mg daily 
from 10 mg daily. A prescription for this blood draw was given 
on discharge.
 
Medications on Admission:
Loratadine 10 mg PO daily  
Lisinopril 10 mg PO daily  
Flomax 0.4 mg PO daily  
Calcitriol 0.25 mg PO every OTHER day  

 
Discharge Medications:
1. Outpatient Lab Work
Please draw creatinine on ___. Fax results to PCP ___. 
___ at ___. Thank you.

2. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
3. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO EVERY 
OTHER DAY (Every Other Day).  
4. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
6. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
7. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
9. loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you were admitted to ___ 
___ for evaluation of your heart. When you were 
seeing your primary doctor the other day, they noted that you 
had some new changes on your EKG. At that point, they referred 
you to have a stress test which looked at your heart's ability 
to deal with stress. The stress test showed some problems with 
the blood flow to a certain area of your heart, possibly due to 
a heart attack that occurred in the recent past. From the stress 
test, you were referred to ___ where you were admitted to the 
cardiology service for possible cardiac catheterization. After 
discussing you case with all of the doctors, your mother, and 
you, it was decided that we would proceed with the cardiac cath. 
The procedure went very well and a stent was placed in one of 
your heart's blood vessels to keep it open and maximize blood 
flow. You are being discharged to your home today.

The following changes were made to your medication regimen:

-Start Simvastatin 20 mg daily
-Start Aspirin 325 mg daily
-Start Plavix 75 mg daily
-Start Metoprolol succinate 25 mg daily
-Increase Lisinopril to 20 mg daily
-Continue Loratadine 10 mg daily  
-Continue Flomax 0.4 mg daily 
-Continue Calcitriol 0.25 mg every OTHER day

Mr. ___, it is so very important that you take your 
Aspirin and Plavix daily. These medication will keep your stent 
healthy. If you do not take these 2 medications daily, you have 
a large risk of sustaining another, much larger heart attack. 
Please do not miss ___ dose.
 
Followup Instructions:
___